Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
acute systolic CHF; cardiogenic shock 
 
Major Surgical or Invasive Procedure:
Cardiac Biopsy ___

 
History of Present Illness:
Ms. ___ is  ___ year old lady with a history of systemic
rheumatoid factor negative juvenile rheumatoid arthritis 
followed
by ___ and  has been in remission since ___ who presented to
___ on ___ with fevers, body aches, and flu 
like
sx who is being transferred to ___ for concern for 
myocarditis.

The patient reports that she noticed she was having fevers and
back aches 4 days prior to admission. She presented to the
___ ED, had a negative flu swab and rapid strep. 
Her
symptoms were felt to be secondary to viral prodrome and she was
instructed to take oral analgesics/antipyretics and was
discharged home. She then continued to have fevers at home which
responded to oral Tylenol and Advil. 

2 days prior to admission she began to feel worse and 
experienced
bilateral shoulder, hip, elbow, and hand arthralgias and
stiffness as well as shortness of breath, headache, and jaw 
pain.
She had pleuritic chest pain worse with sitting up but not
leaning forward.

Her fever was up to 106. She again presented to the ED where she
received 125 mg solumedrol, toradol, morphine, and dilaudid for
pain.  CXR showed ?RLL ifiltrate. CTA to evaluate for PE showed?
pneumonitis but no PE with GGO and bilateral pleural effusions 
so
she was admitted for further evaluation of her fevers. TTE was
reportedly normal. She was started on azithromycin and unasyn
(___). 

At the time of admission the differential of her fevers included 
infectious and
rheumatologic etiology. She was started on 0.6 mg colchicine,
60mg methylpred Q6H. She was empirically treated for Psittacosis
given her clinical picture and history of having a pet bird with
a 200mg loading dose of doxycycline followed by 100mg Q12H
(___). 

On the day of transfer to ___, the patient became hypotensive 
and had
increased chest pain on the hospital floor and was transferred 
to
the ICU. Specifically, EKG at that time demonstrated sinus
tachycardia up to 145. BP with ___ with MAPs to the ___.
During this time she was febrile to 100.8. She received 6L of
fluid and was started on phenylepherine. Repeat TTE showed LV
hypokinesis with EF ___. 

On arrival to the CCU,  the patient confirmed the above history.
She still endorsed substernal chest tightness worse with
inspiration and worse with lying down. She has pain in both
shoulders, jaw, elbows as well as hands and hips. She endorsed
nausea with one episode of vomiting yesterday but no current
nausea. She feels distended in her abdominal and like she has
gained weight.  She denies rashes or vision changes.  She did
have tooth pain the week prior to admission on her left upper 
teeth but it
subsided. 
 

 
Past Medical History:
-  GERD
- Iritis
- Juvenile RA
- Migraine
- Plantar fasciitis
- reactive airway disease 
-appendectomy
-gastroscopy
-laporoscopic cholecystectomy 
 
Social History:
___
Family History:
Uncle: ___ spondylitis, throat Ca 
Father: RA
Aunt: ___
Aunt, mom: ___  
Paternal grandmother: cancer, osteoporosis, pancreatic cancer
maternal grandmother: lung cancer
mother with unspecified heart disease 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS:  98.7, HR 122, BP 114/81, RR@, 98% on RA
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI.
difficulty with opening mouth ___ jaw pain, erythema on soft
palate bilaterally 
NECK: Supple. no JVD 
CARDIAC: tachycardic, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  Bibasilar crackles
ABDOMEN: Soft, mildly-tender throughout, distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, trace
bilateral pitting edema
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1624)
    Temp: 98.2 (Tm 98.3), BP: 113/70 (106-119/65-76), HR: 81
(70-83), RR: 16 (___), O2 sat: 97% (96-98), O2 delivery: RA,
Wt: 125.4 lb/56.88 kg  
GENERAL: Interactive, awake, sitting up comfortably in bed
HEENT: NC/AT. Sclera anicteric. EOMI. MMM. able to open mouth
aperture improved yet again. 
NECK: non tender to palpation  
CARDIAC:  RRR. Normal S1, S2. No MRG. 
LUNGS: Reduced breath sounds. Little inspiratory effort on exam,
but breathing unlabored.  
ABDOMEN: Normoactive bowels sounds. Soft, mildly distended but
improving. Mildly tender to deep palpation in all four 
quadrants,
improving.
EXTREMITIES: Extremities lukewarm, well-perfused. Trace
non-pitting edema, improving. No clubbing or cyanosis. DP and ___
1+ b/l.
NEUROLOGIC: A&Ox3. CN II-XII grossly intact.
 
Pertinent Results:
ADMISSION LABS:

___ 08:24PM BLOOD WBC-17.5* RBC-3.26* Hgb-9.7* Hct-29.4* 
MCV-90 MCH-29.8 MCHC-33.0 RDW-12.9 RDWSD-42.9 Plt ___
___ 08:24PM BLOOD ___ PTT-27.1 ___
___ 08:24PM BLOOD Glucose-171* UreaN-7 Creat-0.6 Na-142 
K-4.0 Cl-110* HCO3-20* AnGap-12
___ 08:24PM BLOOD ALT-49* AST-35 LD(LDH)-279* CK(CPK)-105 
AlkPhos-97 TotBili-0.3
___ 08:24PM BLOOD CK-MB-9 cTropnT-0.20* ___
___ 08:24PM BLOOD Calcium-6.9* Phos-1.6* Mg-2.0
___ 08:24PM BLOOD Ferritn-5472*
___ 08:24PM BLOOD CRP-257.1*
___ 08:45PM BLOOD Lactate-1.5

DISCHARGE LABS:
___ 06:55AM BLOOD WBC-16.0* RBC-3.78* Hgb-11.0* Hct-33.8* 
MCV-89 MCH-29.1 MCHC-32.5 RDW-13.1 RDWSD-42.8 Plt ___
___ 06:35AM BLOOD Glucose-88 UreaN-13 Creat-0.6 Na-138 
K-4.9 Cl-98 HCO3-29 AnGap-11
___ 06:55AM BLOOD ALT-76* AST-26 AlkPhos-99 TotBili-0.2
___ 06:35AM BLOOD Calcium-8.4 Phos-3.6 Mg-2.4

MICRO/RELEVANT LABS:
- All blood cultures and urine cultures negative or NGTD
- Expanded respiratory panel negative 
- CMV and CMV myocardial stain negative 
- CYCLIC CITRULLINATED PEPTIDE (CCP) ANTIBODY, IGG - negative
- RO & LA - negative
- CARDIOLIPIN ANTIBODIES (IGG, IGM) - negative
- ANTI-STREPTOLYSIN O ANTIBODY (ASO) - negative
- SED RATE - 56 
- ADENOVIRUS PCR < 500

- ___ Endometrial Biopsy
Right ventricular endomyocardial biopsy:
- Mild interstitial edema.
- Focal cardiomyocyte cytoplasmic vacuolization, suggestive of 
sublethal cellular injury.
- There is no evidence of a myocarditis (a CD3 immunostain 
highlights only rare T-cells, at most 4
per 20x objective field), granulomas, amyloid, interstitial or 
replacement fibrosis, iron deposition, or a
storage disease (a PAS stain is negative for evidence of a 
glycogen storage disease).

IMAGING/Results:
___: CXR
Compared to the same-day earlier examination, layering small 
bilateral 
effusions appear slightly increased with likely adjacent 
atelectasis.  Heart 
remains mildly enlarged.  The upper lung fields are clear. There 
is no 
pneumothorax. 
  
___: TTE
IMPRESSION: Mild global left ventricular systolic dysfunction, 
most c/w myocarditis. At least mild RV systolic dysfunction. 
Severe tricuspid regurgitation with resultant RV volume 
overload. Moderate to severe mitral regurgitation. 

___ Cath
Normal bi-ventricular filling pressures.
Normal ___ and ___ ratios.
Normal cardiac output and index.
Succesful RV biopsy (5)

___ ECHO

IMPRESSION: Small (1cm) mobile mass in right atrium (c/w 
possible thrombus). Normal left ventricular chamber size with 
moderate global systolic dysfunction (c/w myocarditis). Mildly 
dilated right ventricle with moderate global systolic 
dysfunction. Moderate to severe mitral regurgitation. At least 
moderate-severe tricuspid regurgitation. Bilateral pleural 
effusions. 

___ LENIS
IMPRESSION: 
 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.
 
___ ECHO
IMPRESSION: Focused study to evaluate left ventricular function. 
A left pleural effusion is present. Normal left ventricular wall 
thickness and cavity size with mild focal systolic dysfunction 
in the setting of loss of septal contribution to contraction. 
Mild to moderate mitral regurgitation. Moderate tricuspid 
regurgitation. Mild pulmonary artery systolic hypertension.

Compared with the prior study (images reviewed) of ___, 
left ventricular function appears mildly more vigorous. The 
previously noted right atrial mass is not well identified on the 
current study. 

___ CT neck

IMPRESSION: 
No abnormal focal collections or areas enhancement noted in the 
neck.

___ CT Chest
IMPRESSION:
1. Small bilateral pleural effusions without evidence of gross 
loculation or
pleural enhancement to suggest empyema.  However, fine 
septations if
identified on ultrasound may not be readily apparent on CT.  
Mild diffuse body
wall edema.
2. No definite source of infection is identified within the 
thorax, abdomen,
or pelvis.  In particular, no evidence of focal fluid collection 
or abscess.

___ CT abdomen 
IMPRESSION:
1. Small bilateral pleural effusions without evidence of gross 
loculation or
pleural enhancement to suggest empyema.  However, fine 
septations if
identified on ultrasound may not be readily apparent on CT.  
Mild diffuse body
wall edema.
2. No definite source of infection is identified within the 
thorax, abdomen,
or pelvis.  In particular, no evidence of focal fluid collection 
or abscess.

 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a history of systemic 
rheumatoid factor negative juvenile rheumatoid arthritis 
followed by BWH and has been in remission since ___, who 
presented to ___ with fevers, body aches, flu like 
sx, as well as newly reduced ejection fraction and increased 
cardiac biomarkers, concerning for myocarditis. Underlying 
pathology likely systemic Still's disease.

#Myocarditis
#Cardiogenic Shock, requiring transient use of pressor 
#Acute heart failure with reduced ejection fraction
The patient presented with fevers, chest pain, elevated 
troponins, with an acute drop in her EF as well as lack of 
ischemic changes in ischemic distribution most concerning for 
myocarditis. The patient underwent myocardial biopsy that showed 
interstitial edema and intermittent lymphocytes, but was 
otherwise unremarkable and negative for myocarditis findings. 
The patient had worsening pain with lying down so pericarditis 
is also possible. No pericardial effusion noted. Viral causes of 
myocarditis possible including ___, adenovirus, CMV, EBV, 
parovirus. Expanded respiratory panel and CMV testing was 
negative. Patient did have fever so bacterial causes considered 
including mycoplasma, strep pneumo, legionella, although both 
strep and legionella were negative at OSH. Given her history of 
juvenile RA and elevated ESR/CRP, rheumatology favors this as 
adult-onset Still's disease. Patient was initially mildly 
overloaded on exam likely in setting of decreased EF (initially 
on TTE to 35%). Troponin peaked at OSH. Autoimmune labs 
relatively unremarkable, save for elevated CRP and ESR. Negative 
for CMV, EBV. Anti-CCP negative. The patient was given small 
amounts of IV Lasix with brisk diuresis and subsequent decrease 
in volume overload. Given her new heart failure, the patient was 
also started on lisinopril and metoprolol. Repeat TTE showed EF 
recovery to 48%. 

#Systemic Still's disease:
Patient had juvenile rheumatoid arthritis with similar 
presentation. At that time she required high dose steroids that 
were difficult to taper. Rheumatology was consulted on this 
admission and believes her current presentation is systemic 
Still's disease that is resistant to steroids as she continued 
having fevers through high dose steroids. Patient was continued 
on the high dose steroids, with a fast taper. After a negative 
infectious work up the patient was started on anakinra. Steroid 
taper - she will take 30 mg two times daily through ___, 20 mg 
two times daily through ___, 10 mg two times daily through ___. 
Anakinra was arranged for her in conjunction with the 
rheumatology team. She will also start atovaquone for 
prophylaxis since she is unable to tolerate bactrim. 

#Fever
#Leukocytosis
#Rash
The patient's initial leukocytosis to the mid-20s was attributed 
to steroid treatment. However, the patient was febrile to 102.8 
with shortness of breath and rigors. Initial concern was for 
CAP. However, continued to have fever with rash concerning for 
Still's. Rash disappeared with fever. Patient subsequently 
defervesced and symptomatically improved. However, WBC 
significantly elevated to 46,000 with L shift. Empirically 
treated for CAP. WBC count downtrended with treatment with 
ceftriaxone and azithromycin that was discontinued with no 
identified infection. CT neck, chest, and abdomen was 
non-revealing for infection or collection. 

#Pleural Effusions:
Concern for complicated pleural effusion on ECHO with possible 
septation. She was started on empiric CAP treatment. No 
consistent o2 requirement. Effusion likely cardiogenic with no 
major findings on CT chest of septations. The effusion was not 
drained as she continued to improve undergo auto-diuresis. On 
the day of discharge her lung exam was improved and she did not 
require any oxygen to maintain her sats. 

#Coagulopathy
Patient with INR 1.5. She does not take any medications that 
would explain this abnormality. She does have abdominal 
distension and LFTs unremarkable, with only mild increase in 
ALT. In setting of clot formation on ___ catheter, considered 
underlying hypercoagulable state. Anti-cardiolipin and lupus 
anticoagulant negative. NO DVT on LENIs. INR improved on its own 
prior to discharge. 

#Anemia, normocytic:
Patient with hemoglobin in 9s. Baseline 12. Given elevated 
ESR/CRP, likely from inflammation.

# Oxygen requirement:
Patient with intermittent O2 requirement in CCU. CXR appeared 
stable. Gave IV Lasix prn and incentive spirometer. Patient was 
on RA with a clear CXR prior to discharge. 

#GERD: Held home OTC zantac as on pantoprazole BID with steroid 
treatment

Transitional Issues:
==============
[ ] Patient's ECHO should be followed for improvement please 
order before patient sees cardiology next
[ ] Patient had an equivocal quantiferon gold test - please 
consider additional TB screening while immunosuppresed
[ ] Patient has bone mineral density test ordered for while on 
steroids
[ ] Patient should be continued on PCP ___ (Bactrim), 
vitamin D, and calcium
[ ] Patient should have cardiology follow up 
[ ] Patient is newly on steroids - she will get bone density 
test at ___, is being discharged on bone protective therapy with 
calcium, vitamin D, and prophylaxis should continue with PPI. 
She is on atovaquone for prophylaxis (this will continue off 
steroids while on anakinra) 
[] steroid taper - she will take 30 mg two times daily through 
___, 20 mg two times daily through ___, 10 mg two times daily 
through ___

Discharge Weight: 56.8 kg, 125.4 lb
Discharge Creatinine: 0.6

HCP: ___ ___
Code Status: Full (presumed) 

Time spent coordinating the discharge of this patient: 55 
minutes 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
2. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral Q6H PRN 
3. Fexofenadine 60 mg PO BID 
4. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
5. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1.  anakinra 100 mg/0.67 mL subcutaneous DAILY recurrent 
systemic ___  
2.  Atovaquone Suspension 750 mg PO DAILY 
Patient has sulfa allergy so atovaquone is required for 
prophylaxis 
RX *atovaquone 750 mg/5 mL 5 ml by mouth daily Refills:*0 
3.  Calcium Carbonate 500 mg PO DAILY 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
4.  Colchicine 0.6 mg PO DAILY 
RX *colchicine 0.6 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
5.  Docusate Sodium 100 mg PO BID  
6.  Lidocaine 5% Ointment 1 Appl TP DAILY:PRN injection site 
pain 
RX *lidocaine 5 % apply to injection area daily Refills:*0 
7.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
8.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
9.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth every 4 hours Disp #*42 
Capsule Refills:*0 
10.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
11.  Polyethylene Glycol 17 g PO DAILY  
12.  PredniSONE 30 mg PO BID 
RX *prednisone 10 mg 3 tablet(s) by mouth twice a day Disp #*21 
Tablet Refills:*0 
13.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
14.  Vitamin D 800 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 2 tablet(s) by mouth 
daily Disp #*60 Tablet Refills:*0 
15.  Excedrin Migraine (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral Q6H PRN migraine  
16.  Fexofenadine 60 mg PO BID  
17.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Systemic Stills Disease

Secondary Diagnosis:
Pericarditis
Cardiogenic shock
acute heart failure
Community acquire pnuemonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED?
You were admitted because your heart was not working and you 
were feeling very unwell with fevers and body aches

WHAT WAS DONE WHILE I WAS HERE?
- Your heart was supported with blood pressure support
- We tested you for various viruses and were unable to find a 
viral infection
- You were treated for a possible pneumonia
- You had a biopsy of your heart that was negative for infection 
and inflammation 
- The cardiology doctors, rheumatoid doctors, and infectious 
disease doctors worked together and ___ that this was Systemic 
Still's disease
- You were started on high dose steroids and anakinra prior to 
discharge which resulted in an improvement in your body aches 
and fevers

WHAT SHOULD I DO NOW?
-If you develop rashes, fevers, chills, or any signs of 
infection, please contact your doctor immediately. While on 
immunosuppression with steroids and Anakinra you are very 
susceptible to infection. 
-You should take your medications as instructed and go to your 
doctor's appointments as below. 
-You will get a bone marrow density test done next week at your 
rheumatology appointment 
-If you get an ECHO not at the ___, please bring the disk with 
you to your cardiology follow-up.
-For your steroid taper - please take 30 mg two times daily 
through ___, 20 mg two times daily through ___, 10 mg two times 
daily through ___

We wish you the best.

Your ___ Care Team
 
Followup Instructions:
___